US04968702
3-Amino-6-fluoro-2-[4-(3-pvridinvl)phenyl]-4-quinolinecarboxylic acid
To a solution of 0.097 g of 3-amino-6-fluoro-2-[4-(3-pyridinyl)-phenyl]-4-quinolinecarboxylic acid methyl ester in 10 ml of ethanol was added 1.0 ml of 2.5N aqueous sodium hydroxide. The solution was stirred at reflux for 0.5 hour. The solution was concentrated to a small volume in vacuo and then diluted with 10 ml of water. The solution was acidified with 0.2 ml of glacial acetic acid, warmed briefly and cooled to 20° C. The solid was collected, washed with water, and dried in vacuo, giving 0.076 g of the desired compound as a yellow powder, mp 260°-268° C.

reactant | 3-amino-6-fluoro-2-[4-(3-pyridinyl)-phenyl]-4-quinolinecarboxylic acid methyl ester | 0.097 g | COC(=O)C1=C(C(=NC2=CC=C(C=C12)F)C1=CC=C(C=C1)C=1C=NC=CC1)N | C22H16FN3O2
reactant | sodium hydroxide | 2.5N, 1.0 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Amino-6-fluoro-2-[4-(3-pvridinvl)phenyl]-4-quinolinecarboxylic acid | 0.076 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)F)C1=CC=C(C=C1)C=1C=NC=CC1 | C21H14FN3O2
